US05145899
Preparation of oxydibenzophenone (ODBP)
In a similar manner to that described in the previous example, 89.96 g (0.5285 moles) of diphenyl ether and 122.7 ml (148.58 g, 1.057 moles) benzoyl chloride were dissolved in 1000 ml of o-dichlorobenzene. In 10-20 gram portions, 222 g (1.665 moles) of aluminum chloride were added under stirring. Hydrochloric acid generated during the reaction was swept out with nitrogen and neutralized with aqueous sodium hydroxide solution. After the complete addition of aluminum chloride, the temperature was slowly raised to 95°-100° C. and the reaction was allowed to proceed at this temperature for two hours. The reaction was subsequently cooled and allowed to continue overnight at room temperature. Afterwards, the reaction was precipitated into methanol, the product was isolated by filtration, and then the product was recrystallized with filtering from toluene (Melting point=164°-165° C. by standard melting point apparatus).

reactant | diphenyl ether | 0.5285 moles, 89.96 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | benzoyl chloride | 1.057 moles, 122.7 ml, 148.58 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 1.665 moles, 222 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | o-dichlorobenzene | 1000 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | oxydibenzophenone | O(C1=C(C(=O)C2=CC=CC=C2)C=CC=C1)C1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C26H18O3
